US07696231B2
c) Preparation of 3-(1,3-benzodioxol-5-yl)-N-[4-(hydrazinocarbonyl)phenyl]propanamide (Scheme 2, compound B)
To a suspension of methyl 4-{[3-(1,3-benzodioxol-5-yl)propanoyl]amino}benzoate (200 mg, 0.61 mmol) in EtOH (3.5 mL) was added hydrazine hydrate (0.5 mL). After stirring for 15 hrs at reflux, the reaction mixture was cooled to rt and a white solid precipitated out. Filtration, washing with EtOH (2×1 mL) and water (3×1 mL), and drying under vacuo at 70° C. for 1 hr gave 130 mg of the title compound (65%) as a white solid in 95.5% purity by HPLC (MaxPlot detection between 230 and 400 nm).

reactant | methyl 4-{[3-(1,3-benzodioxol-5-yl)propanoyl]amino}benzoate | 0.61 mmol, 200 mg | O1COC2=C1C=CC(=C2)CCC(=O)NC2=CC=C(C(=O)OC)C=C2 | C18H17NO5
reactant | hydrazine hydrate | 0.5 mL | O.NN
solvent | EtOH | 3.5 mL | CCO | C2H6O
product | 3-(1,3-benzodioxol-5-yl)-N-[4-(hydrazinocarbonyl)phenyl]propanamide | 130 mg, 65% | O1COC2=C1C=CC(=C2)CCC(=O)NC2=CC=C(C=C2)C(=O)NN | C17H17N3O4
